US07687495B2
b) (2S,4R,5R)-2-(2-Amino-ethyl)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1-carboxylic acid benzyl ester
To a solution of 70.0 mg of (2S,4R,5R)-2-(2-azido-ethyl)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1-carboxylic acid benzyl ester in 4.0 ml of tetrahydrofuran and 0.4 ml of water are added 30 mg of triphenyl-phosphine. The reaction mixture is stirred for 2 days at room temperature; concentrated under reduced pressure and the residue is purified by flash chromatography (SiO2 60 F) to afford the title compound as a colourless oil. Rf=0.05 (dichlormethane-methanol 10:1); Rt=4.27.

reactant | (2S,4R,5R)-2-(2-azido-ethyl)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1-carboxylic acid benzyl ester | 70.0 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H]([C@H](C1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)C1=CC=C(C=C1)OC)CCN=[N+]=[N-] | C35H43N5O6
reactant | triphenyl-phosphine | 30 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 4.0 ml | O1CCCC1 | C4H8O
solvent | water | 0.4 ml | O | H2O
product | (2S,4R,5R)-2-(2-Amino-ethyl)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H]([C@H](C1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)C1=CC=C(C=C1)OC)CCN | C35H45N3O6
